US05731432
Preparation of Dimethyl N-(3-Bromopropyl)iminodiacetate.
A mixture of 1 mmol iminodiacetic acid dimethylester hydrochloride salt, 5 mmol N,N-diisopropyl-ethylamine and 3 mmol 1,3-dibromopropane in 2 mL toluene was stirred at 90° C. for 16 h and then chromatographed to provide the title compound as an oil.

reactant | iminodiacetic acid dimethylester hydrochloride salt | 1 mmol | Cl.COC(CNCC(=O)OC)=O
reactant | N,N-diisopropyl-ethylamine | 5 mmol | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1,3-dibromopropane | 3 mmol | BrCCCBr | C3H6Br2
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | Dimethyl N-(3-Bromopropyl)iminodiacetate | BrCCCN(CC(=O)OC)CC(=O)OC | C9H16BrNO4
